US05707995
4-Bromo-3-trifluoromethylaniline (48 g, 0.2 mol) was treated with water (300 ml) and concentrated H2SO4 (36 ml) at 60° C. for 1 hour. The resulting suspension was cooled in an ice bath and treated with sodium nitrite (16 g, 0.23 mol) in water (30 ml) maintaining the temperature of the reaction mixture below 10° C. The resulting solution was stirred at 0° C. for 1 hour, and then added portionwise, over 1 hour, to a 25% H2SO4 aqueous solution (160 ml) whilst steam distilling. After collecting approximately 1 liter of distillate, the aqueous distillate was extracted with ether and the organic solution dried using MgSO4, filtered and concentrated. The product, 4-bromo-3-trifluoromethylphenol, was obtained by distillation under reduced pressure. Yield 18.0 g (37%); boiling point 68-71/1 mmHg.

reactant | 4-Bromo-3-trifluoromethylaniline | 0.2 mol, 48 g | BrC1=C(C=C(N)C=C1)C(F)(F)F | C7H5BrF3N
reactant | H2SO4 | 36 ml | OS(=O)(=O)O | H2O4S
reactant | sodium nitrite | 0.23 mol, 16 g | N(=O)[O-].[Na+]
reactant | H2SO4 | 160 ml | OS(=O)(=O)O | H2O4S
solvent | water | 30 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 4-bromo-3-trifluoromethylphenol | BrC1=C(C=C(C=C1)O)C(F)(F)F | C7H4BrF3O
